US05061720
Hydrolysis of 142 g of 5-phenyl-2-imino-4-thiazolidinone with barium hydroxide in 20% aqueous ethanol gave 55 g of α-mercaptophenylacetic acid (70% yield).

reactant | 5-phenyl-2-imino-4-thiazolidinone | 142 g | C1(=CC=CC=C1)C1C(NC(S1)=N)=O | C9H8N2OS
reactant | barium hydroxide | [OH-].[Ba+2].[OH-]
solvent | ethanol | C(C)O | C2H6O
product | α-mercaptophenylacetic acid | 55 g, 70% yield | SC(C(=O)O)C1=CC=CC=C1 | C8H8O2S
